US07601716B2
3-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]prop-2-ynylamine
{3-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]prop-2-ynyl}carbamic acid tert-butyl ester (19 mg), trifluoroacetic acid (250 μL) and CH2Cl2 (1 mL) were stirred under nitrogen at room temperature for 1.5 hours. 2 N NaOH (2 mL) and CH2Cl2 (approx. 10 mL) were added. The organic phase was isolated, washed twice with H2O, washed once with brine, dried over sodium sulfate, filtered and then purified by normal phase column chromatography, eluting with 5% methanol in methylene chloride, to give the title compound as an off-white solid (37% yield). M.p.=183° C., LCMS: m/z=347.35 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.42 (2H, t, J=4.8 Hz), 3.61 (4H, m), 4.41 (2H, s), 5.04 (1H, bs), 6.42 (1H, s), 7.21 (2H, m), 7.34 (1H, d, J=8.3 Hz), 7.59 (1H, s, J=1.0 Hz).

reactant | {3-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]prop-2-ynyl}carbamic acid tert-butyl ester | 19 mg | C(C)(C)(C)OC(NCC#CC1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)Cl)N=C1)=O | C22H24Cl2N4O2
reactant | trifluoroacetic acid | 250 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 2 N, 2 mL | [OH-].[Na+]
solvent | CH2Cl2 | approx. 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-(2,5-Dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]prop-2-ynylamine | 37% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C#CCN)C=C(C=C1)Cl | C17H16Cl2N4
